US06858651B2
A solution of 293 mg (corresponds to 0.5 mmol) of trans-Methanesulfonic acid 3-{4-[methyl-(4-trifluoromethyl-phenoxycarbonyl)-amino]-cyclohexyl}-propyl ester in 2.5 ml of DMA was cooled to 0° C., treated with 0.195 ml (2 mmol) of Ethyl-(2-hydroxy-ethyl)-amine and stirred over night at RT. A catalytic amount of NaI and 0.195 ml (2 mmol) of Ethyl-(2-hydroxy-ethyl)-amine and after 9 h, 0.88 ml (1 mmol) of Ethyl-(2-hydroxy-ethyl)-amine were added. After 16 h, the solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 9:1) gave 48 mg (22%) of pure trans-(4-{3-[Ethyl-(2-hydroxy-ethyl)-amino]-propyl}-cyclohexyl)-methyl-carbamic acid 4-trifluoromethyl-phenyl ester, MS: 431 (MH+). The following compounds were prepared in analogy:

reactant | trans-Methanesulfonic acid 3-{4-[methyl-(4-trifluoromethyl-phenoxycarbonyl)-amino]-cyclohexyl}-propyl ester | 0.5 mmol, 293 mg | CN([C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C)C(=O)OC1=CC=C(C=C1)C(F)(F)F | C19H26F3NO5S
reactant | Ethyl-(2-hydroxy-ethyl)-amine | 2 mmol, 0.195 ml | C(C)NCCO | C4H11NO
reactant | NaI | [Na+].[I-]
reactant | Ethyl-(2-hydroxy-ethyl)-amine | 2 mmol, 0.195 ml | C(C)NCCO | C4H11NO
reactant | Ethyl-(2-hydroxy-ethyl)-amine | 1 mmol, 0.88 ml | C(C)NCCO | C4H11NO
reactant | DMA | 2.5 ml | CC(=O)N(C)C | C4H9NO
product | trans-(4-{3-[Ethyl-(2-hydroxy-ethyl)-amino]-propyl}-cyclohexyl)-methyl-carbamic acid 4-trifluoromethyl-phenyl ester | 48 mg, 22% | FC(C1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCN(CCO)CC)=O)(F)F | C22H33F3N2O3
